US07872009B2
Step 4: 1-acetyl-5-(cyclohexylmethyl)piperidine-3-carboxylic acid
LiOH (2 N, 500 μL) was added to a solution of ethyl 1-acetyl-5-(cyclohexylmethyl)piperidine-3-carboxylate (180 mL, 0.61 mmol) in MeOH (1 mL) and THF (5 mL). After being maintained for two hours, the reaction was poured into a mixture of CH2Cl2 (25 mL) and H2O (10 mL). The layers were separated and the aqueous layer was extracted with CH2Cl2 (10 mL). The aqueous layer was acidified to pH 1 with 1N HCl and extracted with CH2Cl2 (3×20 mL). The combined organic layers were sequentially washed with H2O (10 mL) and brine before being dried over Na2SO4. Concentration under reduced pressure provided the title compound as a colorless oil. MS m/z: 268.0 (M+1).

reactant | LiOH | 2 N, 500 μL | [Li+].[OH-]
reactant | ethyl 1-acetyl-5-(cyclohexylmethyl)piperidine-3-carboxylate | 0.61 mmol, 180 mL | C(C)(=O)N1CC(CC(C1)CC1CCCCC1)C(=O)OCC | C17H29NO3
reactant | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
reactant | H2O | 10 mL | O | H2O
solvent | MeOH | 1 mL | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-acetyl-5-(cyclohexylmethyl)piperidine-3-carboxylic acid | C(C)(=O)N1CC(CC(C1)CC1CCCCC1)C(=O)O | C15H25NO3
